US04518597
7-[4-(4-Methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 210 from 6-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-methyl-thiophenol.

reactant | 6-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CS(=O)(=O)OCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C15H21NO6S
reactant | 4-methyl-thiophenol | CC1=CC=C(C=C1)S | C7H8S
product | 7-[4-(4-Methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CC1=CC=C(C=C1)SCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C21H25NO3S
